US04958026
500 mg of N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine is heated for 3 hours under reflux with 50 ml of tetrahydrofuran and 430 mg of N,N'-thiocarbonyldiimidazole. After concentration, the residue is combined with water. The precipitate is recrystallized from ethanol, thus obtaining 470 mg of 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2,3-dihydro-2-benzimidazolethione, mp 213°-216° C.

reactant | N-[2-(2,3-diamino-4-methoxyphenyl)ethyl]-N,N-dimethylamine | 500 mg | NC1=C(C=CC(=C1N)OC)CCN(C)C | C11H19N3O
reactant | N,N'-thiocarbonyldiimidazole | 430 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 7-methoxy-4-[2-(N,N-dimethylamino)ethyl]-2,3-dihydro-2-benzimidazolethione | 470 mg | COC1=CC=C(C2=C1NC(N2)=S)CCN(C)C | C12H17N3OS
